* Vector Fitting — Behavioral Laplace Subcircuit (LTspice)
* Generated by vfit/export/spice_export.py
* Poles: 4   RMS error: 2.243e-11

.SUBCKT SIMPLE_RLC_LAPLACE in out 0
* V(out,0) = H(s) * V(in,0)
* H(s) = NUM(s) / DEN(s)
E1 out 0 LAPLACE {V(in,0)} = {(1.284502e+32+1.876540e+32*s+2.174655e+21*s**2+1.002981e+12*s**3+1.000000e+01*s**4)/(1.261803e+18+1.285120e+20*s+1.876540e+20*s**2+2.981150e+08*s**3+1.000000e+00*s**4)}
Rbleed out 0 1G   ; DC path — prevents floating node warning

.ENDS SIMPLE_RLC_LAPLACE

