* Vector Fitting — Behavioral Laplace Subcircuit (LTspice)
* Generated by vfit/export/spice_export.py
* Poles: 4   RMS error: 2.956e-11

.SUBCKT SIMPLE_RLC_LAPLACE in out 0
* V(out,0) = H(s) * V(in,0)
* H(s) = NUM(s) / DEN(s)
E1 out 0 LAPLACE {V(in,0)} = {(1.704453e+25+5.369304e+25*s+1.437315e+18*s**2+1.000014e+12*s**3+1.000000e+01*s**4)/(3.801348e+12+2.540300e+13*s+5.369304e+13*s**2+1.436778e+06*s**3+1.000000e+00*s**4)}
Rbleed out 0 1G   ; DC path — prevents floating node warning

.ENDS SIMPLE_RLC_LAPLACE

