* Vector Fitting — Behavioral Laplace Subcircuit (LTspice)
* Generated by vfit/export/spice_export.py
* Poles: 4   RMS error: 2.956e-11
* Normalization: w0 = 1.183261e+03 rad/s  (sn = s/w0 is order-1 across band)

.SUBCKT SIMPLE_RLC_LAPLACE in out 0
* V(out,0) = H(s) * V(in,0)
* H(s) = NUM(sn) / DEN(sn),  sn = s / w0
E1 out 0 LAPLACE {V(in,0)} = {(1.704453e+25+6.353287e+28*(s/1.183261e+03)+2.012394e+24*(s/1.183261e+03)**2+1.656715e+21*(s/1.183261e+03)**3)/(3.801348e+12+3.005838e+16*(s/1.183261e+03)+7.517596e+19*(s/1.183261e+03)**2+2.380297e+15*(s/1.183261e+03)**3+1.960298e+12*(s/1.183261e+03)**4)}
Rbleed out 0 1G   ; DC path — prevents floating node warning

.ENDS SIMPLE_RLC_LAPLACE

